US07022708B2
To a stirred mixture of sodium hydride (100%, 0.156 g, 6.5 mmole) in dry N,N-dimethylformamide (12 mL) was added 5-bromoindole (0.98 g, 5 mmole). After 5 minutes 4-fluorophenyl disulfide (1.4 g, 5.5 mmole) was added. The mixture was stirred at room temperature for 48 h. The mixture was diluted with 50 mL water and extracted with 25 mL ethyl ether. The organic phase was washed with 1.5M sodium carbonate (5 mL, 7.5 mmol), 5 mL water, dried (magnesium sulfate), and concentrated under reduced pressure to yield 5-Bromo-3-(4-fluoro-phenylsulfanyl)-1H-indole (1.34 g).

reactant | sodium hydride | 6.5 mmole, 0.156 g | [H-].[Na+]
reactant | 5-bromoindole | 5 mmole, 0.98 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | 4-fluorophenyl disulfide | 5.5 mmole, 1.4 g | FC1=CC=C(C=C1)SSC1=CC=C(C=C1)F | C12H8F2S2
reactant | sodium carbonate | 7.5 mmol, 1.5M, 5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 12 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | 5-Bromo-3-(4-fluoro-phenylsulfanyl)-1H-indole | 1.34 g | BrC=1C=C2C(=CNC2=CC1)SC1=CC=C(C=C1)F | C14H9BrFNS
